US05643932
200 mg of lithium aluminum hydride was added, at 0° C., to a solution of 1.92 g of 2-(3,4-diethoxyphenyl)-4-(2-ethoxycarbonyl-6-pyridyl)thiazole in 150 ml of tetrahydrofuran. The mixture was stirred in an argon atmosphere for 2 hours. The reaction mixture was mixed with 1 ml of a saturated sodium sulfate slution. The resulting mixture was stirred at 0° C. for 30 minutes and filtered through Celite. The filtrate was concentrated. The residue was purified by silica gel column chromatography and recrystallized from ethyl acetate-n-hexane to obtain 360 mg of 2-(3,4-diethoxyphenyl)-4-(2-hydroxymethyl-6-pyridyl)thiazole.

reactant | lithium aluminum hydride | 200 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(3,4-diethoxyphenyl)-4-(2-ethoxycarbonyl-6-pyridyl)thiazole | 1.92 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=CC=CC(=N1)C(=O)OCC | C21H22N2O4S
reactant | sodium sulfate | 1 ml | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-(3,4-diethoxyphenyl)-4-(2-hydroxymethyl-6-pyridyl)thiazole | 360 mg | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=CC=CC(=N1)CO | C19H20N2O3S
